US07030139B2
3A: N,N-diethyl-4-[(2-methoxyethyl)amino]-3-nitrobenzamide.
Following general procedure 2B: A mixture of N,N-diethyl-4-fluoro-3-nitrobenzamide (0.200 g, 0.833 mmol), 2-methoxyethanamine (0.065 mL, 0.757 mmol) in 80% aq. EtOH (5 mL) was heated at 90° C. overnight: After work-up, the crude product was purified by silica gel column chromatography (33% EtOAc/Hexanes to 50% EtOAc/Hexanes) to provide the title compound (0.191 g, 85%) as a bright yellow solid. 1H-NMR (CDCl3): δ 8.34 (s, 1H), 8.28 (d, J=2.8 Hz, 1H), 7.56 (dd, J=8.4 Hz, J=1.6 Hz, 1H), 6.91 (d, J=9.2 Hz, 1H), 3.69 (t, J=5.6 Hz, 2H), 3.53 (q, J=5.6 Hz, 2H), 3.44 (s overlapping with br s, 7H), 1.22 (t, J=6.4 Hz, 6H). MS (ESI) (M+H)+=296

reactant | N,N-diethyl-4-fluoro-3-nitrobenzamide | 0.833 mmol, 0.200 g | C(C)N(C(C1=CC(=C(C=C1)F)[N+](=O)[O-])=O)CC | C11H13FN2O3
reactant | 2-methoxyethanamine | 0.757 mmol, 0.065 mL | COCCN | C3H9NO
solvent | EtOH | 5 mL | CCO | C2H6O
product | N,N-diethyl-4-[(2-methoxyethyl)amino]-3-nitrobenzamide | 0.191 g, 85% | C(C)N(C(C1=CC(=C(C=C1)NCCOC)[N+](=O)[O-])=O)CC | C14H21N3O4
